US07947718B2
2-(4-Piperidin-1-yl-but-1-ynyl)-6-piperidin-1-ylmethyl-pyridine
6-Bromo-pyridine-2-carbaldehyde. To a −10° C. solution of n-BuLi (2.5 M in hexane, 5.6 mL, 14 mmol) in anhydrous toluene (20 mL) was added a solution of n-BuMgCl (2 M in THF, 3.5 mL) over 20 min, maintaining the temperature between −10° C. and 0° C. The mixture was stirred at −10° C. for 30 min. A solution of 2,6-dibromo-pyridine (4.74 g, 20 mmol) in toluene (20 mL) was added drop-wise over a period of 30 min while keeping the temperature below −5° C. The resulting suspension was stirred at −10° C. for 2.5 h. The mixture was transferred via cannula to a −10° C. solution of DMF (1.9 g, 26 mmol) in toluene (10 mL). The solution was allowed to stand between −5° C. and −10° C. for 30 min and then was transferred into a solution of citric acid (8.00 g) in H2O (15 mL), maintaining the temperature below 20° C. The resulting solution was stirred for 10 min and the layers were separated. The organic layer was dried over Na2SO4, filtered, and concentrated. The residue was purified (SiO2: 10% ethyl acetate/hexanes) to afford the title compound (1.94 g, 52%).

reactant | 6-Bromo-pyridine-2-carbaldehyde | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | n-BuLi | 14 mmol, 2.5 M, 5.6 mL | [Li]CCCC
reactant | n-BuMgCl | 2 M, 3.5 mL | C(CCC)[Mg]Cl
reactant | 2,6-dibromo-pyridine | 20 mmol, 4.74 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | DMF | 26 mmol, 1.9 g | CN(C)C=O | C3H7NO
reactant | citric acid | 8.00 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 15 mL | O | H2O
product | 2-(4-Piperidin-1-yl-but-1-ynyl)-6-piperidin-1-ylmethyl-pyridine | 1.94 g, 52% | N1(CCCCC1)CCC#CC1=NC(=CC=C1)CN1CCCCC1 | C20H29N3
